* Five-transistor OTA AC; run from scene2/sim
.include 'sky130_compact.lib'
.include 'AMP.cir'
.TEMP 25.0

V1 VSS 0 dc=0
V0 VDD 0 dc=1.8
VIN Vinn 0 dc=0.9 ac=0.5
VIP Vinp 0 dc=0.9 ac=-0.5

XI1 Vinp Vinn VDD VSS Vout AMP
C1 Vout 0 2e-12

.ac dec 100 1 1000Meg
.print ac vdb(Vout) vp(Vout)

.CONTROL
set units=degrees
run
meas ac gain_max find vdb(Vout) at=1
meas ac gbw when vdb(Vout)=0
meas ac phase_margin find vp(Vout) when vdb(Vout)=0
echo "Gain= $&gain_max" > AC_results_1.txt
echo "GBW= $&gbw" >> AC_results_1.txt
echo "PM= $&phase_margin" >> AC_results_1.txt
.ENDC
.END
